US05854277
Ethyl 2-carboethoxy-4[4'-(4"-chlorophenyl) phenyl]-4-oxobutanoate (0.40 g, 1.02 mmol) was added in one portion at rt to a solution of sodium ethoxide (0.08 g, 1.12 mmol) in DME (1 mL). After 15 min, 4-phenyl-1-iodobutane (0.24 g, 0.93 mmol) in DME (3 mL) was added. The resulting solution was stirred for 18 h. The solvent was concentrated in vacuo and the resulting oil dissolved in CH2Cl2 (100 mL) and washed with water (100 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (2×50 mL). The combined organic phases were dried (MgSO4), filtered, and concentrated in vacuo. The resulting oil was purified by flash chromatography on silica gel using a gradient of ethyl acetate/hexane (10% to 25% ethyl acetate) as the eluent to afford a crystalline solid which was recrystallized with hexane and ethyl acetate to afford 1-[4'-(4"-chlorophenyl)phenyl]-3,3-dicarboethoxy-1-oxo-7-phenylheptane (0.272 g, 28%).

reactant | Ethyl 2-carboethoxy-4[4'-(4"-chlorophenyl) phenyl]-4-oxobutanoate | 1.02 mmol, 0.40 g | C(=O)(OCC)C(C(=O)OCC)CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C21H21ClO5
reactant | sodium ethoxide | 1.12 mmol, 0.08 g | [O-]CC.[Na+]
reactant | 4-phenyl-1-iodobutane | 0.93 mmol, 0.24 g | C1(=CC=CC=C1)CCCCI | C10H13I
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 1-[4'-(4"-chlorophenyl)phenyl]-3,3-dicarboethoxy-1-oxo-7-phenylheptane | 0.272 g, 28% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(CCCCC1=CC=CC=C1)(C(=O)OCC)C(=O)OCC)=O | C31H33ClO5
